US05554607
1-Ethyl-3-(4-fluorobenzyl)-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 19 using 9.2 g of N-ethyl glycine, 8.4 g of 4-fluorobenzyl-isothiocyanate, 10.1 g of triethylamine, and 150 mL of methylene chloride. Purification was achieved through crystallization from ethyl acetate/hexane mixture. Title compound (4.85 g) was obtained as a white solid, m.p. 73°-76° C. Anal. Calcd. for. C12H13F N2O S: C, 57.12; H, 5.19; N, 11.10 Found: C, 56.97; H,5.15; N, 11.06. Mass spectrum (EI, M.+) m/z 252.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | 4-fluorobenzyl-isothiocyanate | 8.4 g | FC1=CC=C(CN=C=S)C=C1 | C8H6FNS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-3-(4-fluorobenzyl)-2-thioxo-imidazolidin-4-one | 4.85 g | C(C)N1C(N(C(C1)=O)CC1=CC=C(C=C1)F)=S | C12H13FN2OS
